US07601722B2
In an analogous manner to general procedure V, 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide was reacted with dimethylamine to provide (2Z)-4-[3-(2-fluoro-4-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N,N-dimethylbut-2-en-1-amine hydrochloride:

reactant | 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | ClC\C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)C)F)(=O)=O | C17H16ClFN2O2S
reactant | dimethylamine | CNC | C2H7N
product | (2Z)-4-[3-(2-fluoro-4-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N,N-dimethylbut-2-en-1-amine hydrochloride | Cl.FC1=C(C=CC(=C1)C)N1S(N(C2=C1C=CC=C2)C\C=C/CN(C)C)(=O)=O | InChI=1S/C19H22FN3O2S.ClH/c1-15-10-11-17(16(20)14-15)23-19-9-5-4-8-18(19)22(26(23,24)25)13-7-6-12-21(2)3;/h4-11,14H,12-13H2,1-3H3;1H/b7-6-;
